* PEX produced on Thu Sep  3 12:04:58 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from PFD_flip_flop.ext - technology: ihp-sg13cmos5l

.subckt PFD_flip_flop clk rst D Q NQ vp gd
X0 Q rst gd gd sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X1 3 clk NQ vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X2 3 clk_n NQ gd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X3 a_812_118# 3 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X4 gd 1 gd gd sg13_lv_nmos ad=1.7p pd=10.68u as=19.81855p ps=0.10334m w=5u l=5u
X5 post_NOR rst gd gd sg13_lv_nmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X6 2 1 vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X7 3 clk 2 gd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X8 clk_n clk vp vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X9 gd 2 gd gd sg13_lv_nmos ad=0.95p pd=5.38u as=0 ps=0 w=5u l=5u
X10 gd 3 gd gd sg13_lv_nmos ad=0.95p pd=5.38u as=0 ps=0 w=5u l=5u
X11 a_n184_118# 2 vp vp sg13_lv_pmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X12 2 1 gd gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X13 gd 2 post_NOR gd sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X14 NQ Q gd gd sg13_lv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
X15 1 clk D vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X16 1 clk post_NOR gd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X17 gd 3 Q gd sg13_lv_nmos ad=57f pd=0.68u as=0.102p ps=1.28u w=0.3u l=0.15u
X18 clk_n clk gd gd sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X19 1 clk_n D gd sg13_lv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X20 Q rst a_812_118# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X21 1 clk_n post_NOR vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X22 post_NOR rst a_n184_118# vp sg13_lv_pmos ad=0.102p pd=1.28u as=57f ps=0.68u w=0.3u l=0.15u
X23 3 clk_n 2 vp sg13_lv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.15u
X24 NQ Q vp vp sg13_lv_pmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=0.13u
C0 rst 3 0.37057f
C1 vp NQ 0.29121f
C2 clk_n clk 1.97922f
C3 post_NOR vp 0.18086f
C4 rst Q 0.26936f
C5 1 vp 0.25302f
C6 Q a_812_118# 0.03017f
C7 a_n184_118# vp 0.03861f
C8 clk_n vp 1.08476f
C9 2 3 0.58724f
C10 2 Q 0.06037f
C11 rst 2 0.55164f
C12 3 clk 0.06701f
C13 1 post_NOR 0.5285f
C14 clk_n NQ 0.05672f
C15 post_NOR a_n184_118# 0.03017f
C16 Q clk 0.03426f
C17 clk_n post_NOR 0.08815f
C18 3 vp 0.19325f
C19 rst clk 0.19932f
C20 clk_n 1 0.33599f
C21 vp Q 0.29205f
C22 rst vp 0.51499f
C23 vp a_812_118# 0.03861f
C24 D clk 0.0734f
C25 2 clk 0.67484f
C26 D vp 0.07847f
C27 2 vp 0.4237f
C28 3 NQ 0.5393f
C29 1 3 0.01199f
C30 Q NQ 0.18983f
C31 post_NOR Q 0.01691f
C32 clk_n 3 0.33086f
C33 rst NQ 0.01413f
C34 rst post_NOR 0.34484f
C35 clk_n Q 0.02873f
C36 vp clk 1.4418f
C37 1 rst 0.03335f
C38 rst a_n184_118# 0.01021f
C39 clk_n rst 0.13748f
C40 1 D 0.3453f
C41 2 post_NOR 0.60407f
C42 clk_n D 0.13788f
C43 1 2 0.88201f
C44 clk_n 2 0.212f
C45 clk NQ 0.06354f
C46 3 Q 0.46751f
C47 post_NOR clk 0.02789f
C48 1 clk 0.73802f
C49 NQ gd 3.09974f
C50 D gd 0.12936f
C51 vp gd 4.26548f
C52 a_812_118# gd 3.64091f
C53 post_NOR gd 0.35833f
.ends

